US09029371B2
To a mixture of 6-(4-benzyloxy-phenyl)-morpholin-3-one (13.40 g; 47.3 mmol) and powdered NaOH (3.78 g; 94.6 mmol) in THF (250 mL) was added tert-butyl acrylate (13.7 mL; 94.6 mmol). The resulting mixture was stirred at RT for 2 hours and subsequently concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O) to afford 3-[2-(4-benzyloxy-phenyl)-5-oxo-morpholin-4-yl]-propionic acid tert-butyl ester (14.20 g).

reactant | 6-(4-benzyloxy-phenyl)-morpholin-3-one | 47.3 mmol, 13.40 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OCC(NC1)=O | C17H17NO3
reactant | NaOH | 94.6 mmol, 3.78 g | [OH-].[Na+]
reactant | tert-butyl acrylate | 94.6 mmol, 13.7 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-[2-(4-benzyloxy-phenyl)-5-oxo-morpholin-4-yl]-propionic acid tert-butyl ester | 14.20 g | C(C)(C)(C)OC(CCN1CC(OCC1=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C24H29NO5
